US07279580B2
2-[3-(3-Chloro-4-fluorophenyl)-8-fluoroimidazo[1,2-α]pyridin-7-yl]-propan-2-ol and benzo[b]thiophene-7-boronic acid were coupled in the same way as in Example 30 to give 2-{3-[3-(benzo[b]thien-7-yl)-4-fluorophenyl]-8-fluoroimidazo[1,2-α]pyridin-7-yl}propan-2-ol as an off-white solid (4 mg, 3%): m/z (ES+) 421 [MH+].

reactant | 2-[3-(3-Chloro-4-fluorophenyl)-8-fluoroimidazo[1,2-α]pyridin-7-yl]-propan-2-ol | ClC=1C=C(C=CC1F)C1=CN=C2N1C=CC(=C2F)C(C)(C)O | C16H13ClF2N2O
reactant | benzo[b]thiophene-7-boronic acid | S1C2=C(C=C1)C=CC=C2B(O)O | C8H7BO2S
product | 2-{3-[3-(benzo[b]thien-7-yl)-4-fluorophenyl]-8-fluoroimidazo[1,2-α]pyridin-7-yl}propan-2-ol | 4 mg, 3% | S1C2=C(C=C1)C=CC=C2C=2C=C(C=CC2F)C2=CN=C1N2C=CC(=C1F)C(C)(C)O | C24H18F2N2OS
